US09257654B2
In a 300 mL three-neck flask was put 4.90 g (17.0 mmol) of 2-bromo-9,10-anthraquinone, and the atmosphere in the flask was replaced with nitrogen. To the flask was added 100 mL of tetrahydrofuran (THF), and 17.8 mL (37.3 mmol) of phenyllithium was dropped into this solution. After the completion of the dropping, this solution was stirred at room temperature for 15 hours. Then, this solution was washed with water, and the aqueous layer was extracted with ethyl acetate. The extract solution and the organic layer were combined and dried with magnesium sulfate. Then, this mixture was gravity filtered. The obtained filtrate was concentrated to give 2-bromo-9,10-dihydroanthracene-9,10-diol, which was the object of the synthesis.

reactant | 2-bromo-9,10-anthraquinone | 17.0 mmol, 4.90 g | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7BrO2
reactant | phenyllithium | 37.3 mmol, 17.8 mL | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-bromo-9,10-dihydroanthracene-9,10-diol | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)O)O | C14H11BrO2
